US04892962
Allyl chlorodifluoroacetate
In a 1.5 liter sulfonation flask with a water separator, 294.0 g (2.25 mol) of chlorodifluoroacetic acid (pure, from Fluka AG) and 228.0 g (3.93 mol) of allyl alcohol are dissolved in 1 liter of chloroform and kept under reflux for 17 hours in the presence of 11.25 g of p-toluenesulfonic acid (0.06 mol), 41 ml of H2O separating out. The yellow reaction solution is washed twice with H2O and 3 times with saturated aqueous NaHCO3 solution, dried over MgSO4 and distilled under normal pressure through a Vigreux column. Yield: 306.0 g (80%) of a colourless oil of boiling point 98°-100° C./988 mbar.

reactant | chlorodifluoroacetic acid | 2.25 mol, 294.0 g | ClC(C(=O)O)(F)F | C2HClF2O2
reactant | allyl alcohol | 3.93 mol, 228.0 g | C(C=C)O | C3H6O
reactant | p-toluenesulfonic acid | 0.06 mol, 11.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 41 ml | O | H2O
product | Allyl chlorodifluoroacetate | ClC(C(=O)OCC=C)(F)F | C5H5ClF2O2
